US07084090B2
A 3-L flask equipped with a stirrer, cooling tube and thermometer was purged by nitrogen gas. 55.2 g (770 mmol) of hydroxylamine-hydrochloride (purity of 97%) and 1.2 L of pyridine were added to the flask and were stirred to dissolve at room temperature under nitrogen atmosphere. To the stirred mixture, 138.7 g (700 mmol) of 1,8-naphthalenedicarboxylic anhydride was added. The stirred mixture was heated at 40° C. for 1 hour and subsequently was heated at 70° C. for 1 hour. After stirring at 90° C. for 1 hour, the reaction mixture was cooled to room temperature with stirring. The resulting crystalline solid was filtered off and washed with 5% by weight of acetic acid aqueous solution and dried at 80° C. for 20 hours under a reduced pressure to yield 120.7 g (81%) of N-hydroxynaphthalimide with yellow color.

reactant | hydroxylamine-hydrochloride | 770 mmol, 55.2 g | Cl.NO
reactant | 1,8-naphthalenedicarboxylic anhydride | 700 mmol, 138.7 g | C12=CC=CC3=CC=CC(=C13)C(=O)OC2=O | C12H6O3
solvent | pyridine | 1.2 L | N1=CC=CC=C1 | C5H5N
product | N-hydroxynaphthalimide | 120.7 g, 81% | C1=CC2=C3C(=C1)C(=O)N(C(=O)C3=CC=C2)O | C12H7NO3
